US04182869
3-Carbobenzoxy-2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one
To a solution of 13 g. of 4-carbobenzoxy-1-(o-nitrophenyl)piperazine-2-carboxylic acid and 11.0 g. of sodium hydroxide in 200 ml. of water is added a solution of 20 g. of sodium hydrosulfide in 200 ml. of H2O. The orange solution gradually turns colorless over a period of 2-3 hours. Dilute hydrochloric acid is added to bring the pH of the solution to about 3. A white precipitate forms. Stirring is continued for about 3-5 minutes, and the pH is raised to about 7 by the addition of 40% sodium hydroxide. Filtration gives 8.6 g. of product, m.p. 125°-140°. The analytical sample on recrystallization from ethyl acetate hexane gave a m.p. 167°-170°.

reactant | 4-carbobenzoxy-1-(o-nitrophenyl)piperazine-2-carboxylic acid | C(=O)(OCC1=CC=CC=C1)N1CC(N(CC1)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)O | C19H19N3O6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydrosulfide | [SH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | H2O | O | H2O
product | 3-Carbobenzoxy-2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one | C(=O)(OCC1=CC=CC=C1)N1CC2N(C3=CC=CC=C3NC2=O)CC1 | C19H19N3O3
